US07371763B2
4-(2-Pyridinylthio)aniline:
3-(Trifluoromethyl)-4-(4-pyridinylthio)nitrobenzene: A solution of 4-mercaptopyridine (2.8 g, 24 mmoles), 2-fluoro-5-nitrobenzotrifluoride (5 g, 23.5 mmoles), and potassium carbonate (6.1 g, 44.3 mmoles) in anhydrous DMF (80 mL) was stirred at room temperature and under argon overnight. TLC showed complete reaction. The mixture was diluted with Et2O (100 mL) and water (100 mL) and the aqueous layer was back-extracted with Et2O (2×100 mL). The organic layers were washed with a saturated NaCl solution (100 mL), dried (MgSO4), and concentrated under reduced pressure. The solid residue was triturated with Et2O to afford the desired product as a tan solid (3.8 g, 54%): TLC (30% EtOAc/70% hexane) Rf 0.06; 1H-NMR (DMSO-d6) δ 7.33 (dd, J=1.2, 4.2 Hz, 2H), 7.78 (d, J=8.7 Hz, 1H), 8.46 (dd, J=2.4, 8.7 Hz, 1H), 8.54-8.56 (m, 3H).

reactant | 3-(Trifluoromethyl)-4-(4-pyridinylthio)nitrobenzene | FC(C=1C=C(C=CC1SC1=CC=NC=C1)[N+](=O)[O-])(F)F | C12H7F3N2O2S
reactant | 4-mercaptopyridine | 24 mmoles, 2.8 g | SC1=CC=NC=C1 | C5H5NS
reactant | 2-fluoro-5-nitrobenzotrifluoride | 23.5 mmoles, 5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | potassium carbonate | 44.3 mmoles, 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 4-(2-Pyridinylthio)aniline | 3.8 g, 54% | N1=C(C=CC=C1)SC1=CC=C(N)C=C1 | C11H10N2S
